US09228120B2
Additionally, for example when mixing 1,3-dibutyltetramethyldisilazane as the silicon compound B and trifluoromethanesulfonic anhydride as the acid B, the trifluoromethanesulfonic anhydride is rapidly reacted to form butyldimethylsilyl trifluoromethanesulfonate as the acid A.

reactant | 1,3-dibutyltetramethyldisilazane | C(CCC)[Si](N[Si](CCCC)(C)C)(C)C | C12H31NSi2
reactant | trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | butyldimethylsilyl trifluoromethanesulfonate | FC(S(=O)(=O)O[Si](C)(C)CCCC)(F)F | C7H15F3O3SSi
